### PR TITLE
feat: List.min? lemmas and Option.bind_congr

### PR DESCRIPTION
**Pull request by datokrat**
This PR upstreams `bind_congr` from Mathlib and proves that the minimum of a sorted list is its head and weakens the antisymmetry condition of `min?_eq_some_iff`. Instead of requiring an `Std.Antisymm` instance, `min?_eq_some_iff` now only expects a proof that the relation is antisymmetric *on the elements of the list*. If the new premise is left out, an autoparam will try to derive it from `Std.Antisymm`, so existing usages of the theorem will most likely continue to work.

### CODE REVIEW

File: src/Init/Data/List/MinMax.lean [hunk 1]
```diff
@@ -38,6 +39,18 @@ theorem isSome_min?_of_mem {l : List α} [Min α] {a : α} (h : a ∈ l) :
     l.min?.isSome := by
   cases l <;> simp_all [List.min?_cons']
 
+theorem min?_eq_head? {α : Type u} [Min α] {l : List α}
+    (h : l.Pairwise (fun a b => min a b = a)) : l.min? = l.head? := by
```
Comment (TwoFX) [inline src/Init/Data/List/MinMax.lean:43]: I think it is safe to assume that we will want some vast generalization of this at some point (something like `List.IsPartitionedAt`), but this will do for now.
